US05236822
2-(1-Imidazolyl)-1-methylpyridinium iodide
2-Chloro-1-methylpyridinium iodide (9.43 g), imidazole (2.45 g) and diisopropylethylamine (4.77 g) were added to acetonitrile (150 ml) and the mixture refluxed for 2 hours. The product was filtered off from the chilled solution and dried. Yield, 6 g.

reactant | 2-Chloro-1-methylpyridinium iodide | 9.43 g | [I-].ClC1=[N+](C=CC=C1)C
reactant | imidazole | 2.45 g | N1C=NC=C1 | C3H4N2
reactant | diisopropylethylamine | 4.77 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 2-(1-Imidazolyl)-1-methylpyridinium iodide | [I-].N1(C=NC=C1)C1=[N+](C=CC=C1)C | InChI=1S/C9H10N3.HI/c1-11-6-3-2-4-9(11)12-7-5-10-8-12;/h2-8H,1H3;1H/q+1;/p-1
